US06872711B2
Diethyl β-(4-hydroxy-3-methoxy-5-methylphenyl)-β-[N-(3-pyridyl)-amino]-ethylphosphonate
Glacial acetic acid (130 ml) was added to 500 ml of a THF solution containing a mixture of diethyl β-(4-t-butyldimethylsilyloxy-3-methoxy-5-methylphenyl)-β-[N-(3-pyridyl)-amino]-ethylphosphonate (90.5 g, 0.18 mol) and tetrabutylammonium fluoride trihydrate (TBAF) (224.5 g, 0.71 mol). After stirring at 20° C. for 3 h a GLC test showed that the Tbs protected compound has entirely reacted. The reaction mixture was extracted with dichloromethane, the organic phase was washed with a saturated bicarbonate solution, dried over MgSO4 and evaporated. Purification by column chromatography (silica gel, 9/1 CH2Cl2/MeOH) gave 53 g of pure fractions. Recrystallization from a mixture of petroleum ether/CH2Cl2 gave 27 g (39%) of the title compound as a white solid, mp=156-158° C.

reactant | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
reactant | diethyl β-(4-t-butyldimethylsilyloxy-3-methoxy-5-methylphenyl)-β-[N-(3-pyridyl)-amino]-ethylphosphonate | 0.18 mol, 90.5 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1C)C(CP(OCC)(OCC)=O)NC=1C=NC=CC1)OC | C25H41N2O5PSi
reactant | tetrabutylammonium fluoride trihydrate | 0.71 mol, 224.5 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | Diethyl β-(4-hydroxy-3-methoxy-5-methylphenyl)-β-[N-(3-pyridyl)-amino]-ethylphosphonate | 27 g, 39% | OC1=C(C=C(C=C1C)C(CP(OCC)(OCC)=O)NC=1C=NC=CC1)OC | C19H27N2O5P
